US07141596B2
Step 1. Synthesis of [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
Into the reaction was dissolved 4-(2-amino-ethyl)-phenol; hydrochloride (11.6 g, 66.9 mmol) in water (30 mL) and tetrahydrofuran (30 mL). Sodium bicarbonate (12.5 g, 147 mmol) was added, followed by di-tert-butyldicarbonate (16.1 g, 73 mmol). The reaction was stirred overnight. Water (100 mL) was added and the mixture was extracted with ethyl acetate (100 mL) three times. The organic phases were combined and dried over MgSO4, filtered and the solvent evaporated to give a clear glass (15.9 g, 100%). 1H NMR (400 MHz, CDCl3): δ 7.03 (m, 2H), 6.77 (m, 2H), 4.55 (bs, 1H), 3.33 (m, 2H), 2.71 (t, J=7.0 Hz, 2H), 1.44 (s, 9H).

reactant | 4-(2-amino-ethyl)-phenol | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | hydrochloride | 66.9 mmol, 11.6 g | Cl | ClH
reactant | Sodium bicarbonate | 147 mmol, 12.5 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 73 mmol, 16.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 15.9 g, 100% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
